US07470716B2
3-(3-amino-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole
14 mg phthalimide, 65 mg triphenylphosphine and finally 50 μl of diisopropyl azodicarboxylate are added to a solution of 39 mg 3-(3-hydroxy-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole in 1 ml dry tetrahydrofuran. The solution is stirred for 14 h at ambient temperature and then evaporated to dryness. The residue is taken up in 2 ml of toluene and combined with 50 μl ethanolamine. After 4 h stirring at 80° C. the mixture is cooled to ambient temperature and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol/ammonium hydroxide 95:5:1->80:20:1).

reactant | phthalimide | 14 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 65 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 50 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-(3-hydroxy-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole | 39 mg | OC1CN(CCC1)C1=NN=C(N1CC=C(C)C)C(=O)NCC1=CC=CC2=CC=CC=C12 | C24H29N5O2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-(3-amino-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole | NC1CN(CCC1)C1=NN=C(N1CC=C(C)C)C(=O)NCC1=CC=CC2=CC=CC=C12 | C24H30N6O
